US07723368B2
Step 2) 1-anilino-3-{[4-(difluoromethoxy)phenyl]ethynyl}benzene
Phenyl-{3-[(triisopropylsilanyl)-ethynyl]-phenyl}-amine (441 mg, 1.26 mmol) was dissolved in THF (2 ml) and treated with a 1M solution of tetrabutylammonium fluoride (TBAF) in THF (2 ml) at room temperature. The crude product (250 mg, 1.29 mmol) obtained from aqueous work-up was introduced to a Biotage microwave process vial (0.5-2.0 ml) and combined with 1-Bromo-4-Difluoromethoxybenzene (700 mg, 3.13 mmol), copper iodide (40 mg, 0.210 mmol), tetrakis(triphenylphosphine)palladium (80 mg, 0.069 mmol) and triethylamine (2.74 g, 27 mmol). The vial was quickly crimp capped, agitated then irradiated in a Biotage Initiator™ microwave instrument for 30 minutes at 80° C. Purification by column chromatography (gradient; 0-10% EtOAc in hexanes) afforded an oil 229 mg (53%). This material was used in the subsequent oxidation without further characterization.

reactant | Phenyl-{3-[(triisopropylsilanyl)-ethynyl]-phenyl}-amine | 1.26 mmol, 441 mg | C1(=CC=CC=C1)NC1=CC(=CC=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C23H31NSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-Bromo-4-Difluoromethoxybenzene | 3.13 mmol, 700 mg | BrC1=CC=C(C=C1)OC(F)F | C7H5BrF2O
reactant | triethylamine | 27 mmol, 2.74 g | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.210 mmol, 40 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.069 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-anilino-3-{[4-(difluoromethoxy)phenyl]ethynyl}benzene | 229 mg, 53% | N(C1=CC=CC=C1)C1=CC(=CC=C1)C#CC1=CC=C(C=C1)OC(F)F | C21H15F2NO
